US07956054B2
N-t-Butyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide
2-Bromo-N-t-butyl-benzenesulfonamide (10.0 g, 34.2 mmol) was mixed with palladium acetate (0.768 g, 3.42 mmol). Potassium acetate (13.4 g, 137 mmol) was added followed by bis(pinacolato)diboron (10.4 g, 41.1 mmol) then DMF (265 mL, 3420 mmol). The resulting mixture was stirred under nitrogen, heated to reflux for 2 hours, then heated at 70° C. for 48 hours. The mixture was poured onto ice, partitioned with EtOAc (200 mL), the organics were washed with saturated aqueous NaCl, dried over MgSO4, filtered and concentrated. The product was purified by flash chromatography in hexanes:EtOAc 0-75% to yield the title compound (6.3 g).

reactant | 2-Bromo-N-t-butyl-benzenesulfonamide | 34.2 mmol, 10.0 g | BrC1=C(C=CC=C1)S(=O)(=O)NC(C)(C)C | C10H14BrNO2S
reactant | Potassium acetate | 137 mmol, 13.4 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 41.1 mmol, 10.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DMF | 3420 mmol, 265 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 3.42 mmol, 0.768 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-t-Butyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | 6.3 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H26BNO4S
